US09278973B2
To a solution of 5-amino-1H-1,2,4-triazole-3-carboxylic acid (3.9 g, 30.45 mmol) in methanol (100 ml) was added SOCl2 (12 g, 100.84 mmol). The resulting solution was stirred for 48 h at 70° C. The resulting mixture was concentrated under vacuum, dissolved in water (100 ml), the pH was adjusted to 8 with NaHCO3 solution, and then extracted with dichloromethane (3×50 ml). The organic layer was dried over anhydrous magnesium sulfate and concentrated under vacuum to afford methyl 5-amino-1H-1,2,4-triazole-3-carboxylate as a white solid (800 mg, 65%).

reactant | 5-amino-1H-1,2,4-triazole-3-carboxylic acid | 30.45 mmol, 3.9 g | NC1=NC(=NN1)C(=O)O | C3H4N4O2
reactant | SOCl2 | 100.84 mmol, 12 g | O=S(Cl)Cl | Cl2OS
reactant | methanol | 100 ml | CO | CH4O
product | methyl 5-amino-1H-1,2,4-triazole-3-carboxylate | 800 mg, 65% | NC1=NC(=NN1)C(=O)OC | C4H6N4O2
